US04471139
Several processes for making 2-mercaptoacetaldehyde dimethylacetal (I, R1 =R2 =CH3) are reported by Parham et al., J. Am. Chem. Soc. 75, 2065-2069 (1953). These processes involve reaction of 2-chloroacetaldehyde dimethyl acetal with (1) benzylmercaptan sodium salt to produce benzyl-(1,1-dimethoxy ethyl)sulfide which was then reduced with sodium/ammonia to the desired acetal; (2) sodium sulfide to form 1,1,1', 1'-tetramethoxyethyl disulfide followed by reduction of said disulfide using sodium/ammonia or lithium aluminum hydride; and (3) sodium polysulfide to give a mixture of polysulfides which was reduced with sodium/ammonia. A fourth process described in said reference comprises the action of potassium hydrosulfide on diethyl or dimethyl bromoacetal to produce the corresponding dialkyl mercaptoacetal.

reactant | 2-mercaptoacetaldehyde dimethylacetal | COC(CS)OC | C4H10O2S
reactant | 2-chloroacetaldehyde dimethyl acetal | COC(CCl)OC | C4H9ClO2
reactant | benzylmercaptan sodium salt | [Na].C(C1=CC=CC=C1)S
product | benzyl-(1,1-dimethoxy ethyl)sulfide | C(C1=CC=CC=C1)SC(C)(OC)OC | C11H16O2S
